US04866089
Preparation of 7-isopropoxy-8-hydroxy-2,2-dimethyl-4-chromanone
In 50 ml of N,N-dimethyl formamide 4.2 g (20 millimoles) of 7.8-dihydroxy-2,2-dimethyl-4-chromanone are dissolved, whereupon 5 ml of diethylene glycol dimethylether, 3.0 g (22 millimoles) of potassium carbonate and 4.2 g (2.5 ml, 25 millimoles) of isopropyl iodide are added. The reaction mixture is heated at 140° C. for 4 hours and worked up according to Example 19. Thus 4.5 g of the desired compound are obtained, yield 90%, mp.: 114°-116° C.

reactant | N,N-dimethyl formamide | 20 millimoles, 50 ml, 4.2 g | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 22 millimoles, 3.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl iodide | 25 millimoles, 2.5 ml, 4.2 g | C(C)(C)I | C3H7I
reactant | 7.8-dihydroxy-2,2-dimethyl-4-chromanone | OC1=CC=C2C(CC(OC2=C1O)(C)C)=O | C11H12O4
solvent | diethylene glycol dimethylether | 5 ml | COCCOCCOC | C6H14O3
product | 7-isopropoxy-8-hydroxy-2,2-dimethyl-4-chromanone | 4.5 g, yield 90% | C(C)(C)OC1=CC=C2C(CC(OC2=C1O)(C)C)=O | C14H18O4
